US07781483B2
t-Butyl {(3R*,4S*)-3-hydroxy-6-methoxy-2,2-dimethyl-7-nitro-3,4-dihydro-2H-1-benzopyran-4-yl}carbamate
To a solution of(3R*, 4S*).4amino-6-methoxy-2,2-dimethyl-7-nitro-3,4-dihydro-2H-1-benzopyran-3-ol (2.62 g, 9.77 mmol) and di-t-butyl di-carbonate (4.26 g, 19.5 mmol) in tetrahydrofuran (52 mL), triethylamine (2.72 mL, 19.5 mmol) was added at 0° C. and the mixture was stirred at room temperature overnight. Upon the completion of the reaction, an aqueous solution of saturated sodium carbonate was added to the reaction solution, and the resulting solution was extracted with ethyl acetate. The organic phase was washed with 1 mol/L hydrochloric acid aqueous solution and saturated sodium chloride solution, and then dried over anhydrous sodium sulfate. After distilling off the solvent, the residue was purified by column chromatography (hexane/ethyl acetate = 2/1) and the aimed product was obtained as yellow solid (yield: 92%).

reactant | 4amino-6-methoxy-2,2-dimethyl-7-nitro-3,4-dihydro-2H-1-benzopyran-3-ol | 9.77 mmol, 2.62 g | NC1C(C(OC2=C1C=C(C(=C2)[N+](=O)[O-])OC)(C)C)O | C12H16N2O5
reactant | di-t-butyl di-carbonate | 19.5 mmol, 4.26 g | C(OC(C)(C)C)([O-])=O.C(OC(C)(C)C)([O-])=O
reactant | triethylamine | 19.5 mmol, 2.72 mL | C(C)N(CC)CC | C6H15N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 52 mL | O1CCCC1 | C4H8O
product | t-Butyl {(3R*,4S*)-3-hydroxy-6-methoxy-2,2-dimethyl-7-nitro-3,4-dihydro-2H-1-benzopyran-4-yl}carbamate | O[C@H]1C(OC2=C([C@@H]1NC(OC(C)(C)C)=O)C=C(C(=C2)[N+](=O)[O-])OC)(C)C | C17H24N2O7
